US03966942
To a suspension of 3 g. (0.091 m.) of 3-(4'-chlorophenyl)-5-(1'-ethoxypropylidene)-rhodanine in 15 ml. of ethanol is added a solution of sodium sulfide in 10 ml. of water and the mixture is stirred at room temperature until solution is complete (15-20 minutes). This solution is added to 100 ml. of water, allowed to stand for 15 minutes, filtered and the filtrate is acidified with 2N hydrochloric acid to give 3-(4'-chlorophenyl)-5-(1'-mercaptopropylidene)-rhodanine, m.p. 163°-165°C.

reactant | 3-(4'-chlorophenyl)-5-(1'-ethoxypropylidene)-rhodanine | ClC1=CC=C(C=C1)N1C(SC(C1=O)=C(CC)OCC)=S | C14H14ClNO2S2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium sulfide | [S-2].[Na+].[Na+]
solvent | water | O | H2O
product | 3-(4'-chlorophenyl)-5-(1'-mercaptopropylidene)-rhodanine | ClC1=CC=C(C=C1)N1C(SC(C1=O)=C(CC)S)=S | C12H10ClNOS3
